US09421527B2
S3. Hydrogenation Procedure of Vanillin
A reactant (2.0 mmol, 304 mg), a catalyst (20 mg), H2O (2 mL), formic acid (2.5 equivalents), and anisole (1.0 mmol) were filled in a decompression tube (4 mL) sealed with a Teflon lid. The reaction mixture was heated at 80° C. or 130° C. for 10 hours in an oil bath, and then cooled to room temperature. The reaction mixture was extracted by adding 10 mL CH2Cl2 and centrifuged for 10 minutes to separate a catalyst. The resulting organic layer was analyzed using gas chromatography-mass spectrophotometry (GC-MS).

reactant | formic acid | 2.5 equivalents | C(=O)O | CH2O2
reactant | anisole | 1.0 mmol | C1(=CC=CC=C1)OC | C7H8O
reactant | H2O | 2 mL | O | H2O
product | Vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
